US07442808B2
[2-Methyl-4-(trifluoromethyl)phenoxy]-1-benzofuran
To a stirred solution of 1-benzofuran-6-ol (309 mg, 2.3 mmol) in dioxane (6 mL) and DMF (12 mL) was added 2-methyl-4-trifluoromethylphenyl iodide (600 mg, 2.3 mmol), copper iodide (108 mg, 0.57 mmol), dimethylglycine hydrochloride (243 mg, 1.7 mmol), and cesium carbonate (1.88 g, 5.8 mmol). The reaction was stirred at 110° C. for 22 h. After cooling to room temperature, solvents were removed in vacuo. The residue was dissolved in ethyl acetate, washed with water and brine, dried and concentrated. The crude product was purified on a silica gel column, eluting with ethyl acetate (0-10%) in hexanes. The final product was collected as a slightly yellow oil.

reactant | 1-benzofuran-6-ol | 2.3 mmol, 309 mg | O1C=CC2=C1C=C(C=C2)O | C8H6O2
reactant | 2-methyl-4-trifluoromethylphenyl iodide | 2.3 mmol, 600 mg | CC1=C(C=CC(=C1)C(F)(F)F)I | C8H6F3I
reactant | dimethylglycine hydrochloride | 1.7 mmol, 243 mg | Cl.CN(CC(=O)O)C
reactant | cesium carbonate | 5.8 mmol, 1.88 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
catalyst | copper iodide | 0.57 mmol, 108 mg | [Cu](I)I
product | [2-Methyl-4-(trifluoromethyl)phenoxy]-1-benzofuran | CC1=C(OC=2OC3=C(C2)C=CC=C3)C=CC(=C1)C(F)(F)F | C16H11F3O2
